US07763758B2
b) Preparation of N-[(3,5-Dimethylphenyl)methylene]-N-[2-(diphenylphosphino)ethyl]amine (L-7)
Under argon, a solution of 2-diphenylphosphino-ethylamine (652.2 mg, 2.84 mmol) and 3,5-dimethyl-benzaldehyde (387.4 mg, 2.89 mmol) in ethanol (15 mL) was heated at 65° C. (oil bath) for 4 h. Then, the solvent was removed in-vacuo to give the desired product (>98% by 1H-NMR) as a colourless oil (993.2 mg, 2.8 mmmol, quantitative).

reactant | 2-diphenylphosphino-ethylamine | 2.84 mmol, 652.2 mg | C1(=CC=CC=C1)P(CCN)C1=CC=CC=C1 | C14H16NP
reactant | 3,5-dimethyl-benzaldehyde | 2.89 mmol, 387.4 mg | CC=1C=C(C=O)C=C(C1)C | C9H10O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-[(3,5-Dimethylphenyl)methylene]-N-[2-(diphenylphosphino)ethyl]amine | >98% | CC=1C=C(C=C(C1)C)C=NCCP(C1=CC=CC=C1)C1=CC=CC=C1 | C23H24NP
